US05571833
Reaction of 3-dimethylaminomethyl-4-chloro-5-n-propyloxyindole (3.50 g, 13.1 mmol) with potassium cyanide (3.28 g, 50.4 mmol) and methyl iodide (7.44 g, 52.4 mmol) in DMF by the method described in 1 (d) gave 3-cyanomethyl-4-chloro-5-n-propyloxyindole as an oil which crystallised on standing (2.53 g).

reactant | 3-dimethylaminomethyl-4-chloro-5-n-propyloxyindole | 13.1 mmol, 3.50 g | CN(C)CC1=CNC2=CC=C(C(=C12)Cl)OCCC | C14H19ClN2O
reactant | potassium cyanide | 50.4 mmol, 3.28 g | [C-]#N.[K+]
reactant | methyl iodide | 52.4 mmol, 7.44 g | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-cyanomethyl-4-chloro-5-n-propyloxyindole | C(#N)CC1=CNC2=CC=C(C(=C12)Cl)OCCC | C13H13ClN2O
